Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
LEFT parotid cancer
 
Major Surgical or Invasive Procedure:
left parotidectomy, left neck dissection

 
History of Present Illness:
___ yr old male with forehead with invasive carcinoma with
squamous and ductal differentiation, extending to the peripheral
and deep specimen margins. 
___- ___ surgery with Dr. ___- No remaining tumor was
identified histologically at the surgical margins of 
microscopically controlled surgery. 
But concern for invasion of underlying frontal bone.
-Patient does report of a frontal bone trauma ___ years ago for
which he had to have some kind of surgery including a forehead
incision.
___- CT scan shows no frontal bone invasion
___- bilateral forehead flaps and craniectomy for closure
s/p Mohs with concern for possible deep margin, deep margin
resected by Dr. ___ with incidentally found residual disease
along the periphery with positive margin. 
offered XRT postop
___- CT neck- inimally increased size of a superficial left
parotid nodule, it is rounded with irregular peripheral margins,
appears more rounded compared to prior,
measuring of 1 x 1.1 cm, previously 0.9 x 0.7 cm. Findings
consistent with metastatic lymph node, or primary parotid
malignancy.7.7 mm x 6.4 mm posterior left periparotid lymph node
series 2, image 25, with central low density which may represent
fatty hilum or necrosis within pathologic lymph node, overall
size has increased since prior when it measured 5.7 mm x 4.9 mm.
___- FNA LEFT parotid node- final path POSITIVE FOR MALIGNANT
CELLS. Poorly differentiated carcinoma, favor metastasis from 
the
patient's known skin primary
 
Past Medical History:
ATRIAL FIBRILLATION                                             
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
NOCTURIA                                                        
FATIGUE                                                         
GOUT                                                            
PERIPHERAL VASCULAR DISEASE                                     
HYPOTHYROIDISM                                                  
CAROTID STENOSIS
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Gen: No acute distress
HEENT: Neck soft and flat without evidence of hematoma. Incision
is clean, dry and intact. Cranial nerves 5, 9, 11 intact
bilaterally. LEFT lower division CN7 weakness. 
CV: Hemodynamically stable, WWP
Resp: Unlabored breathing on room air, no stridor 
Neuro: Alert and oriented

 
Pertinent Results:
Please see OMR for pertinent results
 
Brief Hospital Course:
The patient was admitted to the Otolaryngology-Head and Neck 
Surgery Service on ___ after undergoing left parotidectomy 
and left neck dissection. Please see the separately dictated 
operative note for details of procedure. The patient was 
extubated and transferred to the hospital floor for further 
post-operative care. The post-operative course was uneventful 
and the patient was discharged to home. 

Hospital Course by Systems:

Neuro: Pain was well controlled, initially with IV regimen which 
was transitioned to oral regimen once tolerating oral intake. 
Post-operative anti-emetics were given PRN. 

Cardiovascular: Remained hemodynamically stable.  

Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without 
supplemental oxygen prior to discharge.

HEENT: Drains placed intraoperatively were monitored closely 
until output was minimal and were removed. Eye care was given 
while patient was inpatient. OT was consulted for shoulder 
exercises. 

GI: Diet was advanced as tolerated. Bowel regimen was given prn.

GU: Patient was able to void independently.

Heme: Received heparin subcutaneously and pneumatic compression 
boots for DVT prophylaxis. Warfarin was held for three days 
postoperatively and per cardiologist no lovenox bridge was 
necessary. 

Endocrine: Monitored without any remarkable issues. Received 
three doses of decadron postoperatively. 

ID: Received perioperative antibiotics 

At time of discharge, the patient was in stable condition, 
ambulating and voiding independently, and with adequate pain 
control. The patient was given instructions to follow-up in 
clinic with Dr. ___ as scheduled. Pt was given detailed 
discharge instructions outlining wound care, activity, diet, 
follow-up and the appropriate medication scripts.
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Furosemide 40 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Warfarin 2 mg PO DAILY16 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears GEL 1% ___ DROP LEFT EYE QPM left eye 
dryness/incomplete closure  
3.  Artificial Tears ___ DROP BOTH EYES Q4H:PRN left eye dryness 
 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
5.  amLODIPine 5 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Furosemide 40 mg PO DAILY  
8.  Levothyroxine Sodium 100 mcg PO DAILY  
9.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left parotid mass, biopsy proven porocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Otolaryngology – Head and Neck Surgery
Post-Operative Instructions 
Parotidectomy

ACTIVITY
•Go home and rest today.
•If you have received general anesthesia, you may feel tired 
and drowsy for a few hours. You should not drink alcoholic 
beverages, drive a car, operate any machinery, or make legal 
decision for 24 hours.
•You need to avoid strenuous activity for 2 weeks
•Do NOT lift any weight greater than 10 Lbs for 2 weeks.

FLUIDS & DIET
•Start with liquids and, if tolerated, you can eat normal 
foods.

MEDICATIONS
•Take pain medication as prescribed.
•Resume other medications as prescribed except any aspirin or 
aspirin containing products unless cleared by your surgeon.

CARE OF PROCEDURE SITE
•Some swelling of the neck incision is expected
•You may note some bloody looking drainage from the region 
where the plastic drain was removed for up to 5 days.
•Apply antibiotic ointment to your incision twice daily for 7 
days after surgery, then STOP antibiotic ointment and use 
vaseline. If there is tape on your incision apply the ointment 
over the tape.
•Keep incision dry for 3 days. You may be able to take a bath 
from your shoulders down as long as the incision stays dry. The 
tape will start to fall off on its own.
•If there are any crusts/clots on your wound you may gently 
clean them with a Q-tip and Half strength  hydrogen peroxide 
(10cc water + 10cc peroxide) as needed. Do not be too vigorous 
or your stitches or staples may break
•The stitches do not need to be removed as they are 
dissolvable.

WHEN TO CALL YOUR DOCTOR
•Excessive redness of your incision site
•Fever greater than 101 degrees Fahrenheit
•Sudden excessive swelling of incision site

For questions or problems, please call ___ and ask to 
speak to the nurse during clinic hours.

After hours, or on weekends, dial ___ and ask the 
operator to page the Otolaryngology resident on-call.

 
Followup Instructions:
___